US05256824
To a solution of 5,5-diphenyl-2-cyclopenten-1-ol (0.30 g) in acetone were added methanesulfonyl chloride (0.12 ml) and triethylamine (0.21 ml) at 1° C. to 3° C. After being stirred for 15 minutes sodium iodide (0.23 g) was added thereto and the mixture was stirred for 10 minutes. To the mixture was added t-butylamine (2.67 ml) at -1° C. to 2° C. and the mixture was stirred at room temperature overnight. Cold water was added to the mixture and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was dissolved in ethyl acetate. To the solution was added 3N hydrochloric acid (1 ml) with cooling in an ice bath, and the mixture was stirred for 30 minutes. The resulting precipitates were collected by filtration, washed with water, ethyl acetate successively and dried to give N-t-butyl-4,4-diphenyl-2-cyclopentenylamine hydrochloride (0.31 g).

reactant | 5,5-diphenyl-2-cyclopenten-1-ol | 0.30 g | C1(=CC=CC=C1)C1(CC=CC1O)C1=CC=CC=C1 | C17H16O
reactant | methanesulfonyl chloride | 0.12 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium iodide | 0.23 g | [I-].[Na+]
reactant | t-butylamine | 2.67 ml | C(C)(C)(C)N | C4H11N
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
product | N-t-butyl-4,4-diphenyl-2-cyclopentenylamine hydrochloride | 0.31 g | Cl.C(C)(C)(C)NC1C=CC(C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H25N.ClH/c1-20(2,3)22-19-14-15-21(16-19,17-10-6-4-7-11-17)18-12-8-5-9-13-18;/h4-15,19,22H,16H2,1-3H3;1H
